US08084483B2
Sodium nitrite (2.76 g, 40 mmol) was added to a solution of methyl 2-(5-amino-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetate (0.71 g, 2 mmol) and benzyltriethylammonium chloride (1.63 g, 6 mmol) in bromoform (110 mL). Dichloroacetic acid (0.33 mL, 4 mmol) was then added and the reaction mixture stirred at room temperature for 3 h. The mixture was directly loaded onto a 7-inch column of silica gel, packed with dichloromethane (DCM). The column was first eluted with DCM until all bromoform eluted, then eluted with acetone/DCM (5:95) to give methyl 2-(5-bromo-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetate (713 mg, 85%).

reactant | Sodium nitrite | 40 mmol, 2.76 g | N(=O)[O-].[Na+]
reactant | methyl 2-(5-amino-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetate | 2 mmol, 0.71 g | NC=1N(C(=NN1)SCC(=O)OC)C1=CC=C(C2=CC=CC=C12)C1CC1 | C18H18N4O2S
reactant | Dichloroacetic acid | 4 mmol, 0.33 mL | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | bromoform | 110 mL | C(Br)(Br)Br | CHBr3
catalyst | benzyltriethylammonium chloride | 6 mmol, 1.63 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | methyl 2-(5-bromo-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetate | 713 mg, 85% | BrC=1N(C(=NN1)SCC(=O)OC)C1=CC=C(C2=CC=CC=C12)C1CC1 | C18H16BrN3O2S
